US05650428
The procedure described in Example 1 was repeated, except that dihydropyran (2.56 ml) and methyl 6-aminohexanate hydrochloride (3.41 g) were successively reacted with (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid (4.94 g) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(5-methoxycarbonylpentyl)-3-(tetrahydropyran-2-yloxy)propanamide (0.87 g).

reactant | dihydropyran | 2.56 ml | O1CCCC=C1 | C5H8O
reactant | methyl 6-aminohexanate hydrochloride | 3.41 g | Cl.NCCCCCC(=O)OC
reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid | 4.94 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CO | C9H10ClNO5S
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(5-methoxycarbonylpentyl)-3-(tetrahydropyran-2-yloxy)propanamide | 0.87 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCCC(=O)OC)COC1OCCCC1 | C21H31ClN2O7S
